US09353107B2
Step-iii: 3-(1-(3-methoxybenzyl)-1H-pyrazol-4-yl)-5-(4-(piperidin-4-yl)phenyl)-1H-pyrrolo[2,3-b]pyridine
Using similar reaction conditions as described in step-ii of example-7, tert-butyl 4-(4-(3-(1-(3-methoxybenzyl)-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)piperidine-1-carboxylate (85 mg, 0.150 mmol) was deprotected in TFA/toluene (2.5/5 ml). This afforded 11 mg (16.2% yield) of the titled compound. 1H NMR (CD3OD, 300 MHz): δ 8.458-8.451 (d, 1H), 8.327-8.321 (d, 1H), 8.14 (s, 1H), 7.90 (s, 1H), 7.65-7.61 (m, 3H), 7.38-7.35 (d, 2H), 7.29-7.23 (m, 1H), 6.87-6.85 (m, 2H), 5.38 (s, 2H), 3.25-3.76 (s, 3H), 3.25-3.20 (d, 2H), 2.87-2.73 (m, 3H), 1.93-1.72 (m, 4H). MS: m/z=464.6 (M+1), HPLC: 90.63% in method A.

reactant | tert-butyl 4-(4-(3-(1-(3-methoxybenzyl)-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)piperidine-1-carboxylate | 0.150 mmol, 85 mg | COC=1C=C(CN2N=CC(=C2)C2=CNC3=NC=C(C=C32)C3=CC=C(C=C3)C3CCN(CC3)C(=O)OC(C)(C)C)C=CC1 | C34H37N5O3
solvent | TFA toluene | 5 ml | C(=O)(C(F)(F)F)O.C1(=CC=CC=C1)C
product | 3-(1-(3-methoxybenzyl)-1H-pyrazol-4-yl)-5-(4-(piperidin-4-yl)phenyl)-1H-pyrrolo[2,3-b]pyridine | 11 mg, 16.2% yield | COC=1C=C(CN2N=CC(=C2)C2=CNC3=NC=C(C=C32)C3=CC=C(C=C3)C3CCNCC3)C=CC1 | C29H29N5O
